US06420375B1
To a mixture of 2,4-difluorothiophenol (4.95 g) and chloroacetone (2.8 ml) in DMF (30 ml) was added potassium carbonate (9.67 g) at 0° C. The mixture was stirred for 3 hours, poured into water, and extracted with ethyl acetate. The extract was washed with 10% aqueous citric acid, water, and brine, dried over MgSO4, and concentrated to give 1-(2,4-difluorophenylthio)propan-2-one (6.80 g). This compound was dissolved in toluene and heated at reflux for 30 hours with polyphosphoric acid (24 g). The solvent was evaporated, and the mixture was heated at 150° C. for 1 hour, carefully neutralized with aqueous potassium carbonate with ice-cooling, and extracted with ethyl acetate. The extract was washed with water and brine, dried over MgSO4, and concentrated. The residue was chromatographed on silica gel using hexane as an eluent to give the titled compound as colorless crystals (2.00 g).

reactant | 2,4-difluorothiophenol | 4.95 g | FC1=C(C=CC(=C1)F)S | C6H4F2S
reactant | chloroacetone | 2.8 ml | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 9.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-difluorophenylthio)propan-2-one | 6.80 g | FC1=C(C=CC(=C1)F)SCC(C)=O | C9H8F2OS
